US06589970B2
A mixture of N-(5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-4-cyclohexyl-N-methyl-benzamide (799 mg, 1.51 mmol), prepared in the previous step, 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester (1.66 mmol), prepared in step 2 of Example 7, and cesium carbonate (985 mg, 3.0 mmol) in acetone was stirred at room temperature for 3 h. The reaction was partitioned between water and ethyl acetate. The aqueous layer was separated and extracted three times with ethyl acetate. The combined extracts were dried (Na2SO4) and the solvent removed under reduced pressure. Purification of the residue by column chromatography using 10%-20% ethyl acetate-hexanes as the eluent gave 2-(1-bromo-6-{[(4-cyclohexyl-benzoyl)-methyl-amino]-methyl}-naphthalen-2-yloxy)-3-phenyl-propionic acid methyl ester (445 mg, 48%), LCMS ES+(Calc'd: 613.2; Found: 614.3).

reactant | N-(5-bromo-6-hydroxy-naphthalen-2-ylmethyl)-4-cyclohexyl-N-methyl-benzamide | 1.51 mmol, 799 mg | BrC1=C2C=CC(=CC2=CC=C1O)CN(C(C1=CC=C(C=C1)C1CCCCC1)=O)C | C25H26BrNO2
reactant | 3-phenyl-2-trifluoromethanesulfonyloxypropionic acid methyl ester | 1.66 mmol | COC(C(CC1=CC=CC=C1)OS(=O)(=O)C(F)(F)F)=O | C11H11F3O5S
reactant | cesium carbonate | 3.0 mmol, 985 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-(1-bromo-6-{[(4-cyclohexyl-benzoyl)-methyl-amino]-methyl}-naphthalen-2-yloxy)-3-phenyl-propionic acid methyl ester | 445 mg, 48% | COC(C(CC1=CC=CC=C1)OC1=C(C2=CC=C(C=C2C=C1)CN(C)C(C1=CC=C(C=C1)C1CCCCC1)=O)Br)=O | C35H36BrNO4
